US07547691B2
(S)-2-{2-[3-(3,4-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (S)-2-{5-methyl-2-[3-(3-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 453 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (S)-2-{5-methyl-2-[3-(3-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2C[C@@H](NCC2)C | C23H30N6OS
product | (S)-2-{2-[3-(3,4-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2C[C@@H](N(CC2)C)C | InChI=1S/C24H32N6OS.3ClH/c1-16-14-27-24(26-9-6-10-30-12-11-29(4)17(2)15-30)28-22(16)21-13-19-18(23(31)25-3)7-5-8-20(19)32-21;;;/h5,7-8,13-14,17H,6,9-12,15H2,1-4H3,(H,25,31)(H,26,27,28);3*1H/t17-;;;/m0.../s1
